US04276364
Preparation of 1-[4-(2-acetylhydrazino)phenyl]-3,3-dimethylthiourea (NA-5)
The procedure for the preparation of NA-1 in Example 1 was followed with 1-acetyl-2-(4-aminophenyl)hydrazine (0.82 g, 0.005 mole), dimethylthiocarbamoyl chloride (0.62 g, 0.005 mole) and N,N-diisopropylethylamine (0.65 g, 0.005 mole). Yield 0.30 g (24 percent), m.p. 187°-189° C.

reactant | 1-[4-(2-formylhydrazino)phenyl]-3,3-dimethylthiourea | C(=O)NNC1=CC=C(C=C1)NC(=S)N(C)C | C10H14N4OS
reactant | 1-acetyl-2-(4-aminophenyl)hydrazine | 0.005 mole, 0.82 g | C(C)(=O)NNC1=CC=C(C=C1)N | C8H11N3O
reactant | dimethylthiocarbamoyl chloride | 0.005 mole, 0.62 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | N,N-diisopropylethylamine | 0.005 mole, 0.65 g | C(C)(C)N(C(C)C)CC | C8H19N
product | 1-[4-(2-acetylhydrazino)phenyl]-3,3-dimethylthiourea | C(C)(=O)NNC1=CC=C(C=C1)NC(=S)N(C)C | C11H16N4OS
